US05284841
Step E: [(4-Chlorophenoxy)methyl]triphenylphosphonium chloride
Into a 100 ml round-bottom flask was added 5 g (28.8 mmol, 1.0 equiv) of α,4-dichloroanisole, 7.8 g (30 mmol, 1.05 equiv) triphenylphosphine, and 50 ml toluene (over sieves). The resulting solution was heated to 100° C. for 24 hours, cooled down to room temperature, and filtered to afford the product as a white solid.

reactant | α,4-dichloroanisole | 28.8 mmol, 5 g, 1.0 equiv | ClCOC1=CC=C(C=C1)Cl | C7H6Cl2O
reactant | triphenylphosphine | 30 mmol, 7.8 g, 1.05 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | [(4-Chlorophenoxy)methyl]triphenylphosphonium chloride | [Cl-].ClC1=CC=C(OC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21ClOP.ClH/c26-21-16-18-22(19-17-21)27-20-28(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
